US05888941
(1R,2R)-2-(4-Chlorophenyl)-N-[2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]-4-methyloxazole-5-carboxamide
A solution of N-(4-chlorobenzoyl)-L-alanine (1.46 g, 6.41 mmol) in benzene (35 mL) was treated with oxalyl chloride (0.55 mL, 6.41 mmol) at 45° C. for 3 h. Next, a solution of (2R,3R)-3-amino-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2-butanol (1.72 g, 6.41 mmol) and triethylamine (2.2 mL) in CHCl2 (20 mL) was slowly added and the reaction mixture was stirred at 0° C. for 0.5 h. The crude product was then poured into cold water and extracted with CHCl3. The organic solution was dried over Na2SO4, filtered and the filtrate was concentrated in vacuo to give a mixture of several products (TLC) from which the title compound was isolated by flash chromatography as a white solid (140 mg): mp 89°-93° C.; 1H NMR (300 MHz, CDCl3) δ (TMS) 8.04 (d, J=8.5, 2H, arom), 7.79 (s, 1H, triazole), 7.78 (s, 1H, triazole), 7.49 (d, J=8.5, 2H, arom), 7.37 (dt, Jd =6.5, Jt =8.8, 1H, arom), 6.8-6.6 (m, 3H, arom, NH), 5.38 (d, J=1.1, 1H, OH), 5.04 (d, J=14.3, 1H, TrCH(H)), 4.96 (br quint, J=7, 1H, CHMe), 4.53 (d, J=14.3, 1H, TrCH(H)), 2.60 (s, 3H, Me-oxazole), 1.04 (d, J=6.8, 3H, MeCH); HPLC-MS 263 and 265 (ethylaminoacyl group, C13H12ClN2O2), 220 and 222 (acyl group, C11H7ClNO2), 224 (Tr--CH2COHAr, C10H8F2N3O); [α]D =-141° (c 0.5, CHCl3). Analysis calculated for C23H20ClF2N5O3 : C 56.62; H 4.13; N 14.35. Found: C 56.41; H 4.19; N 14.50.

reactant | N-(4-chlorobenzoyl)-L-alanine | 6.41 mmol, 1.46 g | ClC1=CC=C(C(=O)N[C@@H](C)C(=O)O)C=C1 | C10H10ClNO3
reactant | oxalyl chloride | 6.41 mmol, 0.55 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2R,3R)-3-amino-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 6.41 mmol, 1.72 g | N[C@@H]([C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)C | C12H14F2N4O
reactant | triethylamine | 2.2 mL | C(C)N(CC)CC | C6H15N
solvent | benzene | 35 mL | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | (1R,2R)-2-(4-Chlorophenyl)-N-[2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]-4-methyloxazole-5-carboxamide | ClC1=CC=C(C=C1)C=1OC(=C(N1)C)C(=O)N[C@@H]([C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)C | C23H20ClF2N5O3
